Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Dyspnea 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMH of AVR + single vessel CABG (___), pAF s/p 
cardioversion, on sotalol, HTN, HLD p/w 1 day of worsening 
dyspnea in the setting of gradual worsening over the past few 
weeks. Her symptoms started around ___ and were associated 
with diaphoresis, nausea, and pallor. She denied any chest 
pain/pressure.  She presented to ___ where her EKG showed 
sinus rhythm and she was given ASA 300mg rectally.  Her initial 
TropT was elevated at 0.15.  She had a CXR which showed 
pulmonary vascular congestion without frank pulmonary edema.  
Her lungs were noted to have diffuse wheezes which were felt to 
be most likely ___ pulmonary edema.  She was placed on BiPAP for 
increased work of breathing and was transferred to ___ for 
further management and potential ICU level of care.

On arrival to the ___ ED, her EKG was unchanged from her prior 
one at ___.  Her labs were notable for a WBC of 17 and Cr 
rising from 1.3 to 1.4.  Her CKMB was normal at 6, and her 
initial Troponin was 0.21 which declined to 0.16.  She was 
initially on CPAP due to increased work of breathing with her 
two VBGs being 7.37/48 and 7.4/42.  ___ was weaned to 5LNC 
after being given 20mg of IV lasix.  She made 700cc of UOP over 
the next 6 hours but developed increased WOB and was re-trialed 
on BiPAP.  She was redosed with 20mg of IV lasix.  She was 
hemodynamically stable throughout.  She is transferred to the 
CCU for further management.     

REVIEW OF SYSTEMS:  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  

Denies any prior history of stroke, TIA, deep venous thrombosis, 
pulmonary embolism, bleeding at the time of surgery, myalgias, 
joint pains, cough, hemoptysis, black stools or red stools. 
Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative.  
 
Past Medical History:
(+) HTN (+) HLD (-) DM
b/l cataracts s/p surgery
s/p cholecystectomy, hysterectomy
 
Social History:
___
Family History:
Father died of suspected MI @ ___. Mother died @ ___.
 
Physical Exam:
ADMISSION EXAM:
Gen: Elderly woman with increased work of breathing, saturating 
well on BiPAP
HEENT: NCAT EOMI MMM 
NECK: +JVP to mid neck
CV: S1/S2, RRR ___ systolic murmur heard best at ___ IS MCL with 
radiation to axilla
LUNGS: expiratory wheezing, bibasilar crackles
ABD: +BS soft NT/ND
EXT: no c/c/e
PULSES: 2+ pulses b/l
SKIN: warm and dry
NEURO: AAOx1-2

DISCHARGE EXAM:
Gen: No spontaneous respirations or chest wall movement noted
HEENT: Pupils fixed and dilated. Absent corneal reflexes.
CV: No heart sound appreciable on auscultation.
Lungs: No breath sounds on auscultation.

Patient pronounced dead at 16:51PM on ___.
 
Pertinent Results:
ADMISSION LABS:
___ 04:10AM BLOOD WBC-17.5* RBC-3.91* Hgb-12.8 Hct-35.6* 
MCV-91 MCH-32.6* MCHC-35.8* RDW-13.6 Plt ___
___ 04:10AM BLOOD Neuts-84.5* Lymphs-8.2* Monos-6.4 Eos-0.7 
Baso-0.2
___ 04:29AM BLOOD ___ PTT-25.0 ___
___ 04:29AM BLOOD Glucose-125* UreaN-38* Creat-1.3* Na-141 
K-4.9 Cl-104 HCO3-22 AnGap-20
___ 04:29AM BLOOD CK-MB-6
___ 04:29AM BLOOD cTropnT-0.21*
___ 04:29AM BLOOD Calcium-9.7 Phos-4.0 Mg-2.0
___ 04:38AM BLOOD ___ pO2-48* pCO2-48* pH-7.37 
calTCO2-29 Base XS-1
___ 04:38AM BLOOD O2 Sat-81

PERTINENT LABS:
___ 09:07AM BLOOD WBC-16.4* RBC-3.91* Hgb-12.0 Hct-37.5 
MCV-96 MCH-30.8 MCHC-32.0 RDW-14.2 Plt ___
___ 09:07AM BLOOD ___ PTT-21.2* ___
___ 09:07AM BLOOD Glucose-120* UreaN-128* Creat-5.0*# 
Na-139 K-6.1* Cl-104 HCO3-17* AnGap-24*
___ 11:40AM BLOOD cTropnT-0.16* ___
___ 09:07AM BLOOD Calcium-8.6 Phos-11.4*# Mg-2.4
___ 11:40PM BLOOD Lactate-2.2*
___ 03:30PM BLOOD Lactate-1.9

DISCHARGE LABS:   NONE, PATIENT MADE CMO AND EXPIRED

MICRO:
___ BLOOD CULTURE:  PENDING
___ URINE CULTURE:   NO GROWTH.

IMAGING: 
___  ECG
Normal sinus rhythm. Left ventricular hypertrophy. 
Intraventricular 
conduction delay. No previous tracing available for comparison.  


___  CHEST (PORTABLE AP)
FINDINGS:  The patient is rotated to the left. The patient is 
status post median sternotomy. There is moderate pulmonary 
edema. More confluent opacity at the right lung base may relate 
to vascular congestion however a consolidation due to pneumonia 
is not excluded. No large pleural effusion is seen. There is no 
evidence of pneumothorax. The cardiac silhouette is enlarged. 
The aorta is calcified and tortuous. 

___  Portable TTE 
Conclusions   
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. There is mild symmetric left 
ventricular hypertrophy with normal cavity size and 
regional/global systolic function (LVEF>55%). Diastolic function 
could not be assessed. There is a mild resting left ventricular 
outflow tract obstruction. The right ventricular free wall is 
hypertrophied. The right ventricular cavity is mildly dilated 
with mild global free wall hypokinesis. A bioprosthetic aortic 
valve prosthesis is present. The transaortic gradient is higher 
than expected for this type of prosthesis. A paravalvular aortic 
valve leak is probably present. Mild (1+) aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. There 
is mild functional mitral stenosis (mean gradient 7 mmHg) due to 
mitral annular calcification. Mild (1+) mitral regurgitation is 
seen. [Due to acoustic shadowing, the severity of mitral 
regurgitation may be significantly UNDERestimated.] The 
tricuspid valve leaflets are mildly thickened. Moderate [2+] 
tricuspid regurgitation is seen. The tricuspid regurgitation jet 
is eccentric and may be underestimated. [Due to acoustic 
shadowing, the severity of tricuspid regurgitation may be 
significantly UNDERestimated.] There is moderate pulmonary 
artery systolic hypertension. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
near-hyperdynamic left ventricular systolic function. The right 
ventricle is dilated and hypokinetic with moderate tricuspid 
regurgitation and moderate pulmonary hypertension. Bioprosthetic 
AVR with high gradients - likely a combination of a relatively 
small valve and hyperdynamic function. The leaflets as seen on 
images #21 and #22 seem to move well although there is 
significant calcification seen at ___ o'clock on the short axis 
views. It is not clear if this is outside the valve or not. At 
least mild mitral regurgitation. Mild calcific mitral stenosis. 
Biatrial dilation.   

___  CHEST (PORTABLE AP)
IMPRESSION:  Interval worsening of pulmonary edema, without 
effusions. 

___  BILAT LOWER EXT VEINS
IMPRESSION: No evidence of deep venous thrombosis in the right 
or left lower extremity veins. 

___  ECG
Sinus rhythm. Prolonged Q-T interval. Left ventricular 
hypertrophy. No major change from the previous tracing. 

 
Brief Hospital Course:
___ y/o F w/ hx of AVR, CABG in ___, PAF on sotalol, HTN, HLD w/ 
recent echo showing preserved ejection fraction with acute on 
subacute worsening dyspnea in the setting of leukocytosis and 
CXR findings c/w PNA, found to have volume overload on exam with 
increased work of breathing initially requiring BiPAP but later 
made comfort care only after unsuccessful attempts at diuresis 
and development of acute renal failure.

ACTIVE ISSUES:
#ACUTE DECOMPENSATED DIASTOLIC HEART FAILURE: LVEF >55%, mild 
symmetric LVH, MAC, +MR. ___ consistent with heart 
failure exacerbation in the setting of PNA. She initially 
responded to IV lasix boluses but quickly developed acute renal 
failure and persistent oxygen requirement. PE was considered in 
the differential given +D-dimer and increased WOB but LENIs were 
negative for DVT and symptomatology was not consistent. Patient 
and family was approached regarding elective intubation and 
right heart cath but declined as this was felt to be too 
invasive. After a meeting with the patient and her family 
(including HCP), patient was made DNR/DNI. Medical team and 
family agreed to try high dose IV Lasix and if this was 
unsuccessful, patient would be made comfort care only. 
Unfortunately, high dose IV diuresis was unsuccessful and 
patient was made comfort care only on ___. Palliative care was 
consulted to assist with comfort measures. Patient expired on 
___ at 16:51PM with family at bedside.

#PNA: Patient presented with leukocytosis characterized by a 
left shift. This in combination with her CXR which was 
suggestive of a RLL opacification, was concerning for PNA. This 
PNA also likely contributed if not caused her CHF exacerbation. 
She was treated with CTX and azithromycin. Antibiotics were 
withdrawn once patient was made comfort care only.

CHRONIC ISSUES:
#Atrial fibrillation: Patient remained in atrial fibrillation 
throughout admission. She was continued on her home sotalol on 
admission but this was withdrawn once patient was made CMO.

#HTN: Normotensive on admission. Home BP meds were held on 
admission especially in the setting of diuresis. 

#HLD: Stable, she was continued on her home pravastatin which 
was discontinued once she was made CMO.

TRANSITIONAL ISSUES:
NONE
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Acetaminophen 650 mg PO Q8H:PRN pain 
2. ALPRAZolam 0.5 mg PO QHS insomnia 
3. Losartan Potassium 25 mg PO DAILY 
4. Potassium Chloride 20 mEq PO DAILY 
5. Pravastatin 40 mg PO QPM 
6. Sotalol 80 mg PO BID 
7. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
8. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN wheezing 

 
Discharge Medications:
PATIENT EXPIRED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
PATIENT EXPIRED
 
Discharge Condition:
PATIENT EXPIRED
 
Discharge Instructions:
PATIENT EXPIRED
 
Followup Instructions:
___